US06916822B2
(a) 2-Benzyl-1′-(tert-butoxycarbonyl)-2,3-dihydro-5-methylspiro[isoquinoline-4(1H),4′-piperidin]-1-one
1′-(tert-Butoxycarbonyl)-2,3-dihydro-5-methylspiro[isoquinoline-4(1H),4′-piperidin]-1-one (80.7 mg) was dissolved in toluene (1.6 ml), added with sodium hydroxide (powder, 34.2 mg), potassium carbonate (67.4 mg), tetrabutylammonium hydrogensulfate (8.3 mg) and benzyl bromide (44 μl) and stirred at 70° C. for 3 hours. The reaction mixture was added with water (2 ml) and extracted twice with dichloromethane (2 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=1:5) to obtain 86 mg of the title compound. Yield: 84%.

reactant | 1′-(tert-Butoxycarbonyl)-2,3-dihydro-5-methylspiro[isoquinoline-4(1H),4′-piperidin]-1-one | 80.7 mg | C(C)(C)(C)OC(=O)N1CCC2(CC1)CNC(C1=CC=CC(=C12)C)=O | C19H26N2O3
reactant | sodium hydroxide | 34.2 mg | [OH-].[Na+]
reactant | potassium carbonate | 67.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 44 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 1.6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogensulfate | 8.3 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2 ml | O | H2O
product | 2-Benzyl-1′-(tert-butoxycarbonyl)-2,3-dihydro-5-methylspiro[isoquinoline-4(1H),4′-piperidin]-1-one | 86 mg, Yield: 84% | C(C1=CC=CC=C1)N1C(C2=CC=CC(=C2C2(CCN(CC2)C(=O)OC(C)(C)C)C1)C)=O | C26H32N2O3
